US06765012B2
5-Fluoro-3-{[4-(2-piperidin-1-yl-ethoxy)-phenylamino]-methylene}-1,3-dihydro-indol-2-one
In a manner similar to that described in Example 231, 4-(2-piperidin-1-yl-ethoxy)-phenylamine (600 mg, 1.2 equiv.) and 5-fluoro-3-hydroxymethylene-1,3-dihydro-indol-2-one (407 mg, 2.27 mmol, 1 equiv.) are reacted to give the named compound as a yellow solid (644 mg, 74%).

reactant | 4-(2-piperidin-1-yl-ethoxy)-phenylamine | 600 mg, 1.2 equiv. | N1(CCCCC1)CCOC1=CC=C(C=C1)N | C13H20N2O
reactant | 5-fluoro-3-hydroxymethylene-1,3-dihydro-indol-2-one | 2.27 mmol, 407 mg, 1 equiv. | FC=1C=C2C(C(NC2=CC1)=O)=CO | C9H6FNO2
product | 5-Fluoro-3-{[4-(2-piperidin-1-yl-ethoxy)-phenylamino]-methylene}-1,3-dihydro-indol-2-one | 644 mg, 74% | FC=1C=C2C(C(NC2=CC1)=O)=CNC1=CC=C(C=C1)OCCN1CCCCC1 | C22H24FN3O2
